US07576094B2
A mixture of 7′,8′-dimethyl-2′,3′-dihydro-1′H-spiro[cyclobutane-1,4′-quinolin]-6′-ol (300 mg), 2-(chloromethyl)quinoline (600 mg), K2CO3 (637 mg), and sodium iodide (40 mg) in acetone (50 mL) was refluxed overnight under nitrogen. The reaction mixture was then cooled down and concentrated by evaporation. Distilled water was added to the residue and the aqueous solution was extracted with ethyl acetate (3×20 mL).The organic layer was combined, dried over Na2SO4, and evaporated. The crude compound was purified by column chromatography (2% MeOH in CH2Cl2) yielding 7′,8′-dimethyl-1′-(quinolin-2-ylmethyl)-2′,3′-dihydro-1′H-spiro[cyclobutane-1,4′-quinolin]-6′-ol as an off-white solid. 1H-NMR (300 MHz, CDCl3) δ=8.28 (d, J=6 Hz, 1H); 8.15 (d, J =6 Hz, 1H); 8.05 (d, J=9 Hz, 1H); 7.88 (t, J=6 Hz, 1H); 7.76 (t, J=6 Hz, 1H); 7.02 (s, 1H); 4.21 (s, 2H); 2.99 (m, 2H); 2.35 (m, 2H); 2.24 (s, 3H); 2.20 (s, 3H); 1.99 (m, 6H) ppm. 13C-NMR (75 MHz, CDCl3) δ=161.20; 149.46; 147.54; 139.58; 137.16; 135.93; 131.04; 129.73; 128.54; 127.70; 127.52; 126.18; 122.83; 119.73; 111.48; 92.98; 77.48; 71.26; 68.59; 60.73; 45.03; 43.92; 40.12; 36.74; 29.88; 15.28; 14.79; 12.54 ppm. MS: (m/z)=359 (100, M+H+).

reactant | 7′,8′-dimethyl-2′,3′-dihydro-1′H-spiro[cyclobutane-1,4′-quinolin]-6′-ol | 300 mg | CC1=C(C=C2C3(CCNC2=C1C)CCC3)O | C14H19NO
reactant | 2-(chloromethyl)quinoline | 600 mg | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | K2CO3 | 637 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium iodide | 40 mg | [I-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 7′,8′-dimethyl-1′-(quinolin-2-ylmethyl)-2′,3′-dihydro-1′H-spiro[cyclobutane-1,4′-quinolin]-6′-ol | CC1=C(C=C2C3(CCN(C2=C1C)CC1=NC2=CC=CC=C2C=C1)CCC3)O | C24H26N2O
